US04691040
A suspension of 59.8 g of 2-(4,5,10,11-tetrahydro-1H-dibenzo[a,d]cyclohepten-5-yl)ethyl-p-toluenesulfonate in 180 ml of pyrrolidine is stirred under argon at room temperature for 21 hours, subsequently poured into a mixture of ice and 300 ml of water and extracted twice with 1.2 l of distilled ether each time. The organic extracts are washed twice with 400 ml of water each time and a small amount of ice, combined, dried over magnesium sulfate and evaporated. The residue is taken up twice in 100 ml of dry toluene each time and the solutions obtained are in each case evaporated to dryness. There is obtained 1-[2-(4,5,10,11-tetrahydro-1H-dibenzo[a,d]cyclohepten-5-yl)ethyl]pyrrolidine in the form of an oil which crystallizes upon standing; m.p. 56°-57°. By recrystallization from pentane there is obtained product of melting point 62°.

reactant | 2-(4,5,10,11-tetrahydro-1H-dibenzo[a,d]cyclohepten-5-yl)ethyl-p-toluenesulfonate | 59.8 g | C1C=CCC=2C(C3=C(CCC21)C=CC=C3)CCOS(=O)(=O)C3=CC=C(C=C3)C | C24H26O3S
reactant | water | 300 ml | O | H2O
reactant | pyrrolidine | 180 ml | N1CCCC1 | C4H9N
product | 1-[2-(4,5,10,11-tetrahydro-1H-dibenzo[a,d]cyclohepten-5-yl)ethyl]pyrrolidine | C1C=CCC=2C(C3=C(CCC21)C=CC=C3)CCN3CCCC3 | C21H27N
